US08609644B2
To a solution of 3α-acetylthio-6-methyleneandrostane-17-one (210 mg) in MeOH (3 mL), 1N NaOH (0.6 mL) was added. After 1 h at room temperature 5% NaH2PO4 aqueous solution was added and the mixture extracted with Et2O (2×20 mL). The combined organic extracts were washed with brine, dried over Na2SO4 and evaporated to dryness to give 3α-mercapto-6-methyleneandrostane-17-one (185 mg, 100%).

reactant | 3α-acetylthio-6-methyleneandrostane-17-one | 210 mg | C(C)(=O)S[C@H]1CC2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)=C | C22H32O2S
solvent | MeOH | 3 mL | CO | CH4O
solvent | NaOH | 1N, 0.6 mL | [OH-].[Na+]
product | 3α-mercapto-6-methyleneandrostane-17-one | 185 mg, 100% | S[C@H]1CC2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)=C | C20H30OS
